US04154834
An intimate mixture of 5-(2-pyridylmethyl)-2-methylthio-4-pyrimidone (4.7 g) and 2-(5-methyl-4-imidazolylmethylthio)-ethylamine (3.4 g) was heated at 130°-135° for 7 hours. The cooled residue was triturated with hot water to give 2-[2-(5-methyl-4- imidazolylmethylthio)ethylamino]-5-(2-pyridylmethyl)-4-pyrimidone and this product was treated with dilute ethanolic HCl to give the title compound m.p. 207°-210° (aqueous ethanol)

reactant | 5-(2-pyridylmethyl)-2-methylthio-4-pyrimidone | 4.7 g | N1=C(C=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)-ethylamine | 3.4 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 2-[2-(5-methyl-4- imidazolylmethylthio)ethylamino]-5-(2-pyridylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC=C1 | C17H20N6OS
